US09212190B2
To a solution of 6-(2-aminoethyl)thieno[2,3-d]pyrimidin-4-ol (2.0 g, 10.24 mmol, 1.00 equiv) and TEA (5 g, 49.41 mmol, 4.82 equiv) in 50 mL of THF was added Boc2O (7.0 g, 32.07 mmol, 3.13 equiv), in portions, at 0° C. under nitrogen. The resulting solution was warmed up to room temperature and stirred for 12 h at 40° C. TLC analysis indicated that the amine was consumed completely and the resulting mixture was concentrated under vacuum. The residue was diluted with 50 mL of ethyl acetate, washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:4) to give 3.6 g (89%) of 6-(2-[[(tert-butoxy)carbonyl]amino]ethyl)thieno[2,3-d]pyrimidin-4-yl tert-butyl carbonate as a white solid. MS (ES): m/z 396 (M+H)+.

reactant | 6-(2-aminoethyl)thieno[2,3-d]pyrimidin-4-ol | 10.24 mmol, 2.0 g, 1.00 equiv | NCCC1=CC2=C(N=CN=C2O)S1 | C8H9N3OS
reactant | Boc2O | 32.07 mmol, 7.0 g, 3.13 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 6-(2-[[(tert-butoxy)carbonyl]amino]ethyl)thieno[2,3-d]pyrimidin-4-yl tert-butyl carbonate | 3.6 g, 89% | C(OC=1C2=C(N=CN1)SC(=C2)CCNC(=O)OC(C)(C)C)(OC(C)(C)C)=O | C18H25N3O5S
